US07053060B2
To a solution of 2-(4-bromophenyl)ethanol (1.0 g) and diisopropylethylamine (1.3 mL) in dichloromethane (5 mL) was added chloromethyl methyl ether (0.75 mL), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added water, and the organic layer was separated and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=15/1–10/1) to give 1-bromo-4-[2-(methoxymethyloxy)ethyl]-benzene (1.2 g).

reactant | 2-(4-bromophenyl)ethanol | 1.0 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | diisopropylethylamine | 1.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.75 mL | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-bromo-4-[2-(methoxymethyloxy)ethyl]-benzene | 1.2 g | BrC1=CC=C(C=C1)CCOCOC | C10H13BrO2
